US06166218
2-[2-Hydroxy-3-(di-n-butylaminomethyl)-5-tert-octylphenyl]-2H-benzotriazole
2-[2-Hydroxy-5-tert-octylphenyl]-2H-benzotriazole (30 g, 0.092 mol), paraformaldehyde (3 g, 0.0955 mol) and di-n-butylamine (24.9 g, 0.191 mol) are charged to a pressure reaction at ambient temperature. The reactor is sealed and the temperature raised to 160° C. The reaction mass is held at 160° C. for four hours and then discharged. The reactor is rinsed with toluene. The toluene, amine and water are stripped by rotary evaporation. The crude product is prepared in a 96% yield (40 g). This product is chromatographed on silica gel using a heptane/ethyl acetate gradient as eluent to remove a trace of unreacted starting benzotriazole intermediate. The title compound is a yellow oil whose structure is confirmed by 1Hnmr.

reactant | 2-[2-Hydroxy-5-tert-octylphenyl]-2H-benzotriazole | 0.092 mol, 30 g | OC1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
reactant | paraformaldehyde | 0.0955 mol, 3 g | C=O | CH2O
reactant | di-n-butylamine | 0.191 mol, 24.9 g | C(CCC)NCCCC | C8H19N
product | 2-[2-Hydroxy-3-(di-n-butylaminomethyl)-5-tert-octylphenyl]-2H-benzotriazole | 96% yield | OC1=C(C=C(C=C1CN(CCCC)CCCC)C(C)(C)CC(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C29H44N4O
